US20010019995A1
To 5.42 g (0.0284 mol) of 2-bromo-oct-1-ene in 7.42 ml (0.0851 mol) of bromoform and 48.8 ml of methylene chloride, were added 1.30 g (0.00284 mol) of N,N′-dibenzyl-N,N,N′,N′-tetramethylethylenediammonium dibromide and 12.1 ml (0.142 mol) of 45% aqueous potassium hydroxide. The mixture was left at room temperature for 5 days. There was then added hexanes and water. This mixture was gravity filtered through qualitative fluted filter paper. The resulting mixture was transferred to a separatory funnel and the phases were separated. The organic layer was dried over MgSO4 and filtered. The solvent was removed from the filtrate in vacuo to yield 5.25 g (51.0% of theoretical) of 1,1,2-tribromo-2-hexyl-cyclopropane as an oil.

reactant | 2-bromo-oct-1-ene | 0.0284 mol, 5.42 g | BrC(=C)CCCCCC | C8H15Br
reactant | bromoform | 0.0851 mol, 7.42 ml | C(Br)(Br)Br | CHBr3
reactant | N,N′-dibenzyl-N,N,N′,N′-tetramethylethylenediammonium dibromide | 0.00284 mol, 1.30 g | [Br-].[Br-].C(C1=CC=CC=C1)[N+](CC[N+](C)(C)CC1=CC=CC=C1)(C)C
reactant | potassium hydroxide | 0.142 mol, 12.1 ml | [OH-].[K+]
solvent | methylene chloride | 48.8 ml | C(Cl)Cl | CH2Cl2
solvent | water | O | H2O
product | 1,1,2-tribromo-2-hexyl-cyclopropane | 5.25 g, 51.0% | BrC1(C(C1)(CCCCCC)Br)Br | C9H15Br3
